US08729263B2
Following standard GENERAL METHOD 1-4 for Suzuki coupling using (1H-pyrazol-4-yl)boronic acid (161 mg, 1.44 mmol) and 1-bromo-5-chloro-4-iodo-2-methoxybenzene (500 mg, 1.44 mmol) afforded 4-(4-bromo-2-chloro-5-methoxyphenyl)-1H-pyrazole (300 mg) MS [M+H+]=286.8.

reactant | (1H-pyrazol-4-yl)boronic acid | 1.44 mmol, 161 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | 1-bromo-5-chloro-4-iodo-2-methoxybenzene | 1.44 mmol, 500 mg | BrC1=C(C=C(C(=C1)Cl)I)OC | C7H5BrClIO
product | 4-(4-bromo-2-chloro-5-methoxyphenyl)-1H-pyrazole | 300 mg | BrC1=CC(=C(C=C1OC)C=1C=NNC1)Cl | C10H8BrClN2O
